US04082810
In a flask is placed 100 mmoles of 3,3-dimethyl-2,5-hexanedione in 50 ml. of tetrahydrofuran. The reaction mixture is cooled to 0° C. and 100 mmoles of lithium perhydro-9b-boraphenalylhydride is added slowly. A 90% yield of 3,3-dimethyl-5-hydroxy-2-hexanone is obtained.

reactant | 3,3-dimethyl-2,5-hexanedione | 100 mmoles | CC(C(C)=O)(CC(C)=O)C | C8H14O2
reactant | lithium perhydro-9b-boraphenalylhydride | 100 mmoles | C1CCC2CCCC3CCCC1B23.[Li]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,3-dimethyl-5-hydroxy-2-hexanone | 90% yield | CC(C(C)=O)(CC(C)O)C | C8H16O2
